US05252538
Preparation of diethyl 6-chloro-5-nitro-2,3-pyridinedicarboxylate
Diethyl 1,6-dihydro-5-nitro-6-oxo-2,3-pyridinedicarboxylate (26.23 g, 0.092 mol) is partially dissolved under N2 atmosphere in 250 mL of phosphorous oxychloride and the mixture is heated to 80° C. for 15 hours. The mixture is cooled and concentratrated and the resulting oil dissolved in ethyl acetate and washed with water, 10% K2CO3 and brine. The organic layer is dried over MgSO4, filtered and the solvent removed to yield a solid which is recrystallized from absolute ethanol/water to give 20.65 g of the product as a brown solid in 73.9% yield, having a melting point of 84.5°-86° C.

reactant | Diethyl 1,6-dihydro-5-nitro-6-oxo-2,3-pyridinedicarboxylate | 0.092 mol, 26.23 g | [N+](=O)([O-])C1=CC(=C(NC1=O)C(=O)OCC)C(=O)OCC | C11H12N2O7
reactant | phosphorous oxychloride | 250 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | diethyl 6-chloro-5-nitro-2,3-pyridinedicarboxylate | 20.65 g, 73.9% yield | ClC1=C(C=C(C(=N1)C(=O)OCC)C(=O)OCC)[N+](=O)[O-] | C11H11ClN2O6
